US04933355
Sodium 5-(2-diphenylmethylaminothiazol-4-ylmethylene)rhodanine-3-acetate monohydrate
Following a procedure similar to that described in Example 35, the desired compound was prepared from 200 mg of 5-(2-diphenylmethylaminothiazol-4-ylmethylene)rhodanine-3-acetic acid, 24.5 mg of sodium methoxide and 6 ml of ethanol. The resulting product was a yellow powder having the following physical properties.

reactant | 5-(2-diphenylmethylaminothiazol-4-ylmethylene)rhodanine-3-acetic acid | 200 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)NC=1SC=C(N1)C=C1C(N(C(S1)=S)CC(=O)O)=O | C22H17N3O3S3
reactant | sodium methoxide | 24.5 mg | C[O-].[Na+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | Sodium 5-(2-diphenylmethylaminothiazol-4-ylmethylene)rhodanine-3-acetate monohydrate | O.C1(=CC=CC=C1)C(C1=CC=CC=C1)NC=1SC=C(N1)C=C1C(N(C(S1)=S)CC(=O)[O-])=O.[Na+] | InChI=1S/C22H17N3O3S3.Na.H2O/c26-18(27)12-25-20(28)17(31-22(25)29)11-16-13-30-21(23-16)24-19(14-7-3-1-4-8-14)15-9-5-2-6-10-15;;/h1-11,13,19H,12H2,(H,23,24)(H,26,27);;1H2/q;+1;/p-1
